US07875728B2
5-methyl-4-[(3-nitrophenyl)hydrazono]-4H-pyrazol-3-ylamine was prepared from 3-nitroaniline (0.35 g, 2.5 mmol) and 3-amino-5-methylpyrazole (0.3 g, 3.1 mmol) according to the procedure described above except that the substituted aniline was initially dissolved in a mixture of water (3.6 mL) and DMF (2.0 mL) prior to being acidified. The product was isolated in a yield of 176 mg (29%) of the compound as a red solid and was not further purified. MS (m/z, ES+): 247.2 (M+1, 100%).

reactant | 3-nitroaniline | 2.5 mmol, 0.35 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | 3-amino-5-methylpyrazole | 3.1 mmol, 0.3 g | NC1=NNC(=C1)C | C4H7N3
reactant | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | water | 3.6 mL | O | H2O
product | 5-methyl-4-[(3-nitrophenyl)hydrazono]-4H-pyrazol-3-ylamine | CC=1C(C(=NN1)N)=NNC1=CC(=CC=C1)[N+](=O)[O-] | C10H10N6O2
